US07094801B2
4-{3E-[2-(3-Hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 2-(3-hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-benzaldehyde (Ex-64B) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Light orange solid, mp 219–220° C., 61% yield. 1H-NMR (300 MHz, DMSO-d6) δ 8.36 (s, 1H), 8.20 (d, 2H, J=7.5 Hz), 8.05–8.11 (m, 3H), 7.93 (d, 1H, J=16.2 Hz), 7.67 (d, 1H, J=3.0 Hz), 7.52 (d, 1H, J=5.1 Hz), 7.13 (dd, 1H, J=5.1, 3.0 Hz), 6.88 (s, 1H), 4.66 (brs, 2H), 4.23 (d, 2H, J=6.3 Hz), 4.01 (s, 3H), 3.55–3.66 (m, 4H), 2.09–2.14 (m, 1H). MS (ESI) m/z=469 ([M+H]+, 100%). Anal. Calcd. for C25H24O7S.H2O: C, 61.72; H, 5.39; S, 6.59. Found: C, 61.93; H, 5.30; S, 7.06.

reactant | 2-(3-hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-benzaldehyde | OCC(COC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1)CO | C16H18O5S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[2-(3-Hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid | 61% yield | OCC(COC1=C(C=C(C(=C1)OC)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)CO | C25H24O7S
